US07858623B2
Step 3: N-(3-Fluoro-4-(7-methoxyquinolin-4-yloxy)phenyl)-3-oxo-4-phenylmorpholine-2-carboxamide.
A dry, 10 mL schlenk-type flask was charged with a stirbar, lithium 3-oxo-4-phenylmorpholine-2-carboxylate (0.096 g, 0.42 mmol), triethylammonium hydrochloride (0.058 g, 0.42 mmol), 3H-[1,2,3]triazolo[4,5-b]pyridin-3-ol (0.072 g, 0.53 mmol), and evacuated. The flask was back-filled with nitrogen and treated with 2 mL dry THF and 1 mL dry NMP. To the stirring solution was added Si-DCC (0.55 g, 0.53 mmol) followed by 3-fluoro-4-(7-methoxyquinolin-4-yloxy)benzenamine (0.100 g, 0.35 mmol). The reaction was stirred for 3 d at RT, and then 60° C. for 24 h. The slurry was filtered through a 0.22 μm frit, and the THF removed. The crude was purified by HPLC (Waters Spherisorb S5 column (PN PSS830195, 20×250 mm, 60 Å pore, 5 μm particle size)) to afford the title compound (0.026 g, 15.2% yield) 1H NMR (400 MHz, Chloroform-d) 3.74 (ddd, J=12.32, 3.72, 3.52 Hz, 1H), 3.95-4.03 (m, 4H), 4.23 (dt, J=12.42, 3.91 Hz, 1H), 4.27-4.38 (m, 1H), 5.06 (s, 1H), 6.37 (dd, J=5.23, 1.12 Hz, 1H), 7.20 (t, J=8.56 Hz, 1H), 7.24 (dd, J=9.15, 2.49 Hz, 1H), 7.27 (ddd, J=8.83, 2.47, 1.12 Hz, 1H), 7.32-7.41 (m, 3H), 7.43 (d, J=2.45 Hz, 1H), 7.46-7.51 (m, 2H), 7.81 (dd, J=12.03, 2.35 Hz, 1H), 8.26 (d, J=9.19 Hz, 1H), 8.59 (d, J=5.18 Hz, 1H), 9.66 (br. s., 1H). MS (ESI pos. ion) m/z=488, calc'd for C27H22FN3O5 487.

reactant | lithium 3-oxo-4-phenylmorpholine-2-carboxylate | 0.42 mmol, 0.096 g | O=C1N(CCOC1C(=O)[O-])C1=CC=CC=C1.[Li+]
reactant | triethylammonium hydrochloride | 0.42 mmol, 0.058 g | Cl.C(C)[NH+](CC)CC
reactant | 3H-[1,2,3]triazolo[4,5-b]pyridin-3-ol | 0.53 mmol, 0.072 g | N1=NN(C2=NC=CC=C21)O | C5H4N4O
reactant | 3-fluoro-4-(7-methoxyquinolin-4-yloxy)benzenamine | 0.35 mmol, 0.100 g | FC=1C=C(C=CC1OC1=CC=NC2=CC(=CC=C12)OC)N | C16H13FN2O2
product | N-(3-Fluoro-4-(7-methoxyquinolin-4-yloxy)phenyl)-3-oxo-4-phenylmorpholine-2-carboxamide | 0.026 g, 15.2% yield | FC=1C=C(C=CC1OC1=CC=NC2=CC(=CC=C12)OC)NC(=O)C1C(N(CCO1)C1=CC=CC=C1)=O | C27H22FN3O5
